US07745663B2
To a solution of 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-formyl-N-(2-hydroxy-ethoxy)-benzamide (56.2 mg, 0.117 mmol) in tetrahydrofuran (anhydrous) were added O,N-dimethyl-hydroxylamine hydrochloride (commercially available, 34 mg, 0.351 mmol) and sodium cyanoborohydride (34 mg, 0.541 mmol) under nitrogen atmosphere, and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed sequentially with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resultant residue was purified by silica gel flash chromatography (Mega Bond Elut, Varian, 5% methanol/methylene chloride as an eluent) to give 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(methoxy-methyl-amino)-methyl]-benzamide (9.72 mg, 17%) as a white solid.

reactant | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-formyl-N-(2-hydroxy-ethoxy)-benzamide | 0.117 mmol, 56.2 mg | FC=1C(=C(C(=O)NOCCO)C=C(C1F)C=O)NC1=C(C=C(C=C1)I)F | C16H12F3IN2O4
reactant | O,N-dimethyl-hydroxylamine hydrochloride | Cl.CONC
reactant | sodium cyanoborohydride | 0.541 mmol, 34 mg | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(methoxy-methyl-amino)-methyl]-benzamide | 9.72 mg, 17% | FC=1C(=C(C(=O)NOCCO)C=C(C1F)CN(C)OC)NC1=C(C=C(C=C1)I)F | C18H19F3IN3O4
